US05162571
To a solution of 4,7-dimethyl-6-methoxy-1-indanone (7.0 g) in a mixed solvent of methanol (100 ml) and tetrahydrofuran (50 ml) was added sodium borohydride (1.2 g) at 0° C. and then the mixture was stirred at room temperature for 1 hour. Acetone (10 ml) was added and the solvent was distilled off under reduced pressure. Water (50 ml) and ethyl acetate (50 ml) were added and the organic layer was washed with water and saturated saline. The organic layer was dried with anhydrous magnesium sulfate and the solvent was removed under reduced pressure to obtain 4,7-dimethyl-6-methoxy-1-indanol (7.0 g) (Compound A-14). The physical properties and NMR spectrum data thereof are shown in Table 1.

reactant | 4,7-dimethyl-6-methoxy-1-indanone | 7.0 g | CC1=C2CCC(C2=C(C(=C1)OC)C)=O | C12H14O2
reactant | methanol | 100 ml | CO | CH4O
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | sodium borohydride | 1.2 g | [BH4-].[Na+]
solvent | Acetone | 10 ml | CC(=O)C | C3H6O
product | 4,7-dimethyl-6-methoxy-1-indanol | 7.0 g | CC1=C2CCC(C2=C(C(=C1)OC)C)O | C12H16O2
